US07504508B2
To a solution of (2S,4R)-N-(4-chloro-2-methylphenyl)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-amine (140 mg, 0.33 mmol, 1 equ.) in acetyl chloride (1.0 mL) was added diisopropylethylamine (58 uL, 0.33 mmol, 1 equ.). The mixture was stirred at room temperature for 5 h. The mixture was concentrated under reduced pressure, dissolved in ethyl acetate, washed with sat. aqueous sodium bicarbonate, brine and dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (methylene chloride/methanol 99/1) to afford pure N-(4-chloro-2-methylphenyl)-N-[(2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide (140 mg, 92%).

reactant | (2S,4R)-N-(4-chloro-2-methylphenyl)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-amine | 0.33 mmol, 140 mg | ClC1=CC(=C(C=C1)N[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OC)=O)C)C | C25H25ClN2O2
reactant | diisopropylethylamine | 0.33 mmol, 58 uL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl chloride | 1.0 mL | C(C)(=O)Cl | C2H3ClO
product | N-(4-chloro-2-methylphenyl)-N-[(2S,4R)-1-(4-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide | 140 mg, 92% | ClC1=CC(=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OC)=O)C)C | C27H27ClN2O3
